US07244730B2
(Step 1) 5-Bromo-2-hydroxy-4-methylbenzoic acid
After dissolving 2-hydroxy-4-methylbenzoic acid (24.54 g, 161.29 mmol) in methanol (300 ml), the solution was cooled to −20° C. A solution of bromine (26.03 g) in methanol (50 ml) was added dropwise over 1 hour. The reaction mixture was stirred at room temperature for 1 hour and then concentrated. The residue was heated to dissolution in methanol (100 ml) and water (40 ml) was added. The precipitated crystals were filtered off and washed with 50% methanol-water. The precipitated crystals in the filtrate were also filtered off and washed with 50% methanol-water. The crystals were combined and dried to yield the title compound (24.8 g) as white crystals.

reactant | 2-hydroxy-4-methylbenzoic acid | 161.29 mmol, 24.54 g | OC1=C(C(=O)O)C=CC(=C1)C | C8H8O3
reactant | bromine | 26.03 g | BrBr | Br2
solvent | methanol | 300 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 5-Bromo-2-hydroxy-4-methylbenzoic acid | 24.8 g | BrC=1C(=CC(=C(C(=O)O)C1)O)C | C8H7BrO3
